US06653305B2
4-[(R)-(1-phenylethyl)amino]-6-nitroquinazoline
A mixture of 6.40 ml of (R)-(1-phenylethyl)amine and 8.70 ml of diisopropylethylamine in 30 ml methylene chloride is added dropwise to 9.00 g of 4-chloro-6-nitroquinazoline in 70 ml methylene chloride while cooling with an ice bath. The mixture is allowed to come up to ambient temperature, then it is stirred for about another 48 hours. For working up, the reaction mixture is washed with water, 10% citric acid, and again with water. The organic phase is dried over magnesium sulfate and concentrated by evaporation. The solid evaporation residue is stirred with about 100 ml methanol, suction filtered, and washed with a little methanol. Yield: 8.44 g (67% of theory); Rf value: 0.33 (silica gel, cyclohexane/ethyl acetate=1:1); mass spectrum (ESI−): m/z=293 [M−H]−.

reactant | (R)-(1-phenylethyl)amine | 6.40 ml | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | diisopropylethylamine | 8.70 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chloro-6-nitroquinazoline | 9.00 g | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 4-[(R)-(1-phenylethyl)amino]-6-nitroquinazoline | C1(=CC=CC=C1)[C@@H](C)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C16H14N4O2
